US06451814B1
1-[[4-[[4-[2-[[(2R)-2-Hydroxy-2-[4-hydroxy-3-[(methylsulfonyl)amino]phenyl]ethyl]amino]ethyl]phenyl]amino]-1-piperidinyl]carbonyl]-3-piperidine Carboxylic Acid, Ethyl Ester
Ethyl 1-({4-[4-(2,2-dimethoxyethyl)anilino]-1-piperidinyl}carbonyl)-3-piperidinecarboxylate (1.0 g, 2.23 mmol) was added to a pre-prepared mixture of sodium iodide (0.893 g, 5.96 mmol) and trichloro(methyl)silane (0.561 mL, 4.77 mmol) in anhydrous acetonitrile. The reaction was stirred at ambient temperature for 10 minutes. Dichloromethane was added and the reaction washed with 10% sodium thiosulfate solution, water and brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and the solvent partially removed in vacuo. The aldehyde solution was used directly and treated with methanol, acetic acid (0.156 mL, 2.6 mmol), N-{5-[(1R)-2-amino-1-hydroxyethyl]-2-hydroxyphenyl]methanesulfonamide (0.587 g, 2.38 mmol) followed by sodium cyanoborohydride (0.164 g, 2.38 mmol). The reaction was stirred at ambient temperature for 24 hours. The reaction was taken to dryness in vacuo, adsorbed onto silica and purified by flash chromatography on silica gel Merck-60 (eluant: 5:1 chloroform-methanol containing 1% ammonium hydroxide) to yield the title compound (0.07 g, 0.11 mmol).

reactant | Ethyl 1-({4-[4-(2,2-dimethoxyethyl)anilino]-1-piperidinyl}carbonyl)-3-piperidinecarboxylate | 2.23 mmol, 1.0 g | COC(CC1=CC=C(NC2CCN(CC2)C(=O)N2CC(CCC2)C(=O)OCC)C=C1)OC | C24H37N3O5
reactant | sodium iodide | 5.96 mmol, 0.893 g | [I-].[Na+]
reactant | trichloro(methyl)silane | 4.77 mmol, 0.561 mL | Cl[Si](C)(Cl)Cl | CH3Cl3Si
reactant | acetic acid | 2.6 mmol, 0.156 mL | C(C)(=O)O | C2H4O2
reactant | N-{5-[(1R)-2-amino-1-hydroxyethyl]-2-hydroxyphenyl]methanesulfonamide | 2.38 mmol, 0.587 g | NC[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C9H14N2O4S
reactant | sodium cyanoborohydride | 2.38 mmol, 0.164 g | C(#N)[BH3-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
solvent | Dichloromethane | ClCCl | CH2Cl2
product | 1-[[4-[[4-[2-[[(2R)-2-Hydroxy-2-[4-hydroxy-3-[(methylsulfonyl)amino]phenyl]ethyl]amino]ethyl]phenyl]amino]-1-piperidinyl]carbonyl]-3-piperidine Carboxylic Acid, Ethyl Ester | 0.11 mmol, 0.07 g | O[C@@H](CNCCC1=CC=C(C=C1)NC1CCN(CC1)C(=O)N1CC(CCC1)C(=O)OCC)C1=CC(=C(C=C1)O)NS(=O)(=O)C | C31H45N5O7S
